US08138333B2
4-Methyl-1-(phenylsulfonyl)-3,4,5,6-tetrahydro-1H-azepino[3,4,5-cd]indole hydrochloride
1-(Phenylsulfonyl)-3,4,5,6-tetrahydro-1H-azepino[3,4,5-cd]indole hydrochloride, Example 12 (100 mg, 0.3 mmol) was dissolved in THF (4 mL) before sodium triacetoxyborohydride (203 mg, 1.0 mmol) and acetic acid (191 mg, 3.2 mmol) was added. Aqueous formaline (37%, 1 mL) was added and the reaction mixture was heated in MW at 70° C. for 300 s. The reaction mixture was evaporated and the crude product was purified by preparative HPLC using System B, 100 mM NH4HCO3/MeCN (36-66% MeCN). The product was isolated and transformed to the hydrochloride. 15.2 mg of the pure product was isolated as an yellow oil, yield 12%. MS m/z 327 [M+H]+.

reactant | 1-(Phenylsulfonyl)-3,4,5,6-tetrahydro-1H-azepino[3,4,5-cd]indole hydrochloride | Cl.C1(=CC=CC=C1)S(=O)(=O)N1C=C2C=3C(=CC=CC13)CCNC2
reactant | sodium triacetoxyborohydride | 1.0 mmol, 203 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 3.2 mmol, 191 mg | C(C)(=O)O | C2H4O2
reactant | formaline | 1 mL | C=O | CH2O
reactant | hydrochloride | Cl | ClH
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 4-Methyl-1-(phenylsulfonyl)-3,4,5,6-tetrahydro-1H-azepino[3,4,5-cd]indole hydrochloride | 15.2 mg, yield 12% | Cl.CN1CC2=CN(C=3C=CC=C(C23)CC1)S(=O)(=O)C1=CC=CC=C1 | InChI=1S/C18H18N2O2S.ClH/c1-19-11-10-14-6-5-9-17-18(14)15(12-19)13-20(17)23(21,22)16-7-3-2-4-8-16;/h2-9,13H,10-12H2,1H3;1H
